US08957080B2
Synthesis of (R)-2-(2-((4-amino-3-(4-(2,3-difluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-3-cyclopropylacrylonitrile
Into a 50 mL, round-bottom flask, was placed a solution of 3-[(2R)-2-([4-amino-3-[4-(2,3-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile (109 mg, 0.22 mmol, 1.00 equiv) in methanol (10 mL), cyclopropanecarbaldehyde (1 mL), and piperidine (1 mL). The resulting solution was stirred for 12 h at 25° C. and then concentrated under vacuum. The resulting solution was diluted with ethyl acetate and the resulting mixture was washed with water and brine. The organics were dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (20/1) to give 32 mg (25%) of the title compound as a white solid. LC-MS: (ES, m/z): 542 [M+H]+. 1H-NMR: (300 MHz, CDCl3, ppm): δ 8.38 (s, 1H), 7.74 (d, 2H), 7.18 (d, 2H), 7.08 (m, 2H), 6.92 (m, 1H), 6.81 (d, 1H), 5.54 (s, 2H), 4.82 (m, 1H), 4.68 (m, 2H), 3.65 (m, 1H), 3.51 (m, 1H), 2.02 (m, 3H), 1.20 (m, 3H), 0.88 (m, 3H).

reactant | 3-[(2R)-2-([4-amino-3-[4-(2,3-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile | 0.22 mmol, 109 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C(=CC=C2)F)F)C[C@@H]2N(CCC2)C(CC#N)=O | C25H21F2N7O2
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
solvent | methanol | 10 mL | CO | CH4O
solvent | cyclopropanecarbaldehyde | 1 mL | C1(CC1)C=O | C4H6O
product | (R)-2-(2-((4-amino-3-(4-(2,3-difluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-3-cyclopropylacrylonitrile | 32 mg, 25% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C(=CC=C2)F)F)C[C@@H]2N(CCC2)C(=O)C(C#N)=CC2CC2 | C29H25F2N7O2
